US09421209B2
Intermediate 58: 3-(3-Methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine
To a solution of 3-Iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.522 g, 2.0 mmoles) in DMF (10 ml), ethanol (5 ml) and water (5 ml), 3-methoxyphenylboronic acid (0.395 g, 2.59 mmoles) and sodium carbonate (1.05 g, 10 mmoles) were added and the system is degassed for 30 min. Palladium tetrakis triphenylphosphine (0.455 g, 0.39 mmoles) was added under nitrogen atmosphere and heated to 80° C. After 12 h, the reaction mixture neutralised with 1.5N HCl, extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by column chromatography with methanol:dichloromethane to afford the title compound as off-white solid (0.130 g, 27% yield). 1H-NMR (δ ppm, DMSO-d6, 400 MHz): δ 13.57 (s, 1H), 8.20 (s, 1H), 7.46 (t, J=7.8 Hz, 1H), 7.23 (d, J=7.5 Hz, 1H), 7.18 (d, J=2.4 Hz, 1H), 7.04 (dd, J=8.0, 1.8 Hz, 1H), 3.81 (s, 3H).

reactant | 3-Iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.0 mmoles, 0.522 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | 3-methoxyphenylboronic acid | 2.59 mmoles, 0.395 g | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 10 mmoles, 1.05 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1.5N | Cl | ClH
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3-Methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.130 g, 27% yield | COC=1C=C(C=CC1)C1=NNC2=NC=NC(=C21)N | C12H11N5O
